US06136854
The cyclopentenone (30 mg), 16 mg of DMAP, 66 mg of triethylamine and 86 mg of propionic anhydride (P0513 manufactured by Tokyo Kasei Kogyo) were dissolved in 5.9 ml of dichloromethane and the mixture was made to react with ice cooling for one hour. The reaction solution was developed by means of a silica gel thin later chromatography using a 200:1 mixture of chloroform and methanol as a developing solvent and the silica gel corresponding to Rf=0.5~0.6 was scratched off from the thin layer and extracted with chloroform to give 31 mg of dipropionylcyclopentenone.

reactant | cyclopentenone | 30 mg | C1(C=CCC1)=O | C5H6O
reactant | triethylamine | 66 mg | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 86 mg | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
catalyst | DMAP | 16 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 5.9 ml | ClCCl | CH2Cl2
product | dipropionylcyclopentenone | 31 mg | C(CC)(=O)C1=C(C(CC1)=O)C(CC)=O | C11H14O3
